US06025375
To a solution of diethyl phosphono acetic acid (8.0 ml) in 1,2-dimethoxyethane (80 ml) was added sodium hydride (60% in oil, 1.4 g) at 0° C. under N2. After being stirred for 1 hour at ambient temperature, to the solution was added a solution of 2-(3-methoxyphenyl)cyclopentanone (4.5 g) in 1,2-dimethoxyethane (20 ml). After being stirred for 12 hours, the reaction mixture was poured into a mixture of ethyl acetate and water. The organic layer was washed with saturated sodium bicarbonate aqueous solution and brine. The dried solvent was concentrated and the obtained residue was purified by column chromatography on silica gel to give ethyl [2-(3-methoxyphenyl)cyclopentylidene]acetate (5.0 g).

reactant | diethyl phosphono acetic acid | 8.0 ml | C(C)C(C(=O)O)(P(=O)(O)O)CC | C6H13O5P
reactant | sodium hydride | 1.4 g | [H-].[Na+]
reactant | 2-(3-methoxyphenyl)cyclopentanone | 4.5 g | COC=1C=C(C=CC1)C1C(CCC1)=O | C12H14O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dimethoxyethane | 80 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | water | O | H2O
product | ethyl [2-(3-methoxyphenyl)cyclopentylidene]acetate | 5.0 g | COC=1C=C(C=CC1)C1C(CCC1)=CC(=O)OCC | C16H20O3
